US07053089B2
4-(Pteridin-4-ylaminomethyl)-piperidine-1-carboxylic acid benzyl ester
EXAMPLE 86 was prepared from 4-aminomethyl-piperidine-1-carboxylic acid benzyl ester and 4-methylthio-pteridine (4-methylthio-pteridine was prepared according to A. A. Brown, D. J. Brown,h. C. S. Wood, J. Chem. Soc., 1954, 3832–3839): MS (m+1)=379.

reactant | 4-aminomethyl-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CN | C14H20N2O2
reactant | 4-methylthio-pteridine | CSC1=NC=NC2=NC=CN=C12 | C7H6N4S
product | 4-(Pteridin-4-ylaminomethyl)-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CNC1=NC=NC2=NC=CN=C12 | C20H22N6O2
